US07319104B2
Alkylation of 4-{2-[(5-Ethylpyrimidin-2-yl)amino]ethyl}phenol (135 mg; 0.56 mmol) with ethyl 2-bromopropionate (0.18 ml; 1.39 mmol) as per general procedure C (conditions: 2 eq Cs2CO3, MeCN, 60C, 4 hr). provided ethyl 2-(4-{2-[(5-ethylpyrimidin-2-yl)amino]ethyl}phenoxy)propanoate (143 mg; 75% yield).

reactant | 4-{2-[(5-Ethylpyrimidin-2-yl)amino]ethyl}phenol | 0.56 mmol, 135 mg | C(C)C=1C=NC(=NC1)NCCC1=CC=C(C=C1)O | C14H17N3O
reactant | ethyl 2-bromopropionate | 1.39 mmol, 0.18 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | Cs2CO3 | 2 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | CC#N | C2H3N
product | ethyl 2-(4-{2-[(5-ethylpyrimidin-2-yl)amino]ethyl}phenoxy)propanoate | 143 mg, 75% yield | C(C)C=1C=NC(=NC1)NCCC1=CC=C(OC(C(=O)OCC)C)C=C1 | C19H25N3O3
